### PR TITLE
Simplify Hierarchy of Event Structures

### PR DESCRIPTION
**Pull request by eupp**
* Remove elementary event structures `Elem.EventStruct`, instead inherit `PrimeC` from `DwFinPOrder`
* Remove `PrimeG` event structures, define `gcf` and `cf` on `PrimeC` event structures.
* Add `gcf` and `cf` morhpism lemmas. 
* Inherit `Prime` from `PrimeC`, prove `bgcfP` and `bgcfE` lemmas to express general conflict through binary conflict.

### CODE REVIEW

File: theories/common/utils.v [hunk 1]
```diff
@@ -347,6 +369,26 @@ Proof.
   by apply /fset_existsP; exists y.
 Qed.  
 
+Lemma fset_forallP s p :
+  reflect (forall x, x \in s -> p x) [forall x : s, p (val x)].
```
Comment (volodeyka) [inline theories/common/utils.v:373]:
```suggestion
  reflect {in s, forall x, p x} [forall x : s, p (val x)].
```

File: theories/common/utils.v [hunk 2]
```diff
@@ -347,6 +369,26 @@ Proof.
...
+Proof.
+  apply /equivP; first (by apply /forallP); split.
+  - by move=> H x inX; move: (H (Sub x inX)).  
+  move=> H x; exact/H/(valP x).
+Qed.  
+
+(* TODO: use `rst s r` (restriction of relation) ? *)
+Lemma fset_forall2P s r :
+  reflect (forall x y, x \in s -> y \in s -> r x y)
```
Comment (volodeyka) [inline theories/common/utils.v:382]:
```suggestion
  reflect {in s & s, forall x y, r x y}
```

File: theories/concur/prime_eventstruct.v [hunk 3]
```diff
@@ -208,46 +132,99 @@ Notation eventType := EventStruct.type.
...
 Variable (L : Type) (E : eventType L).
 
 Definition cons : pred {fset E} :=
   EventStruct.cons (EventStruct.class E).
 
+Definition gcf : pred {fset E} := 
+  fun C => ~~ cons C.
+
+Definition cf : rel E := 
+  fun e1 e2 => gcf ([fset e1; e2]).
```
Comment (volodeyka) [inline theories/concur/prime_eventstruct.v:147]:
```suggestion
  fun e1 e2 => gcf [fset e1; e2].
```

**Review by volodeyka — APPROVED** [review]
